US05143919
To a mixture o 4-acetoxy-3,5-dimethoxycinnamic acid (638 mg), dimethylformamide (2 drops) and tetrahydrofuran (8 ml) was added oxazolyl chloride (0.25 ml). The mixture was stirred at room temperature for one hour and then the solvent was distilled off to obtain 4-acetoxy-3,5-dimethoxycinnamic acid chloride as crystals. To a solution of the crystals in dichloromethane (15 ml) were added 5-amino-4-(2-chlorophenyl)-2-ethylthieno[2,3-b]pyridine (576 mg) and N,N-dimethylaniline (0.25 ml) with ice cooling. After warming to room temperature, the mixture was stirred for 5 hours, washed in turn with water, aqueous saturated NaHCO3 solution and water, and then dried over MgSO4. The solvent was distilled off and the residue was crystallized from ethanol (729 mg, 67.4%). 5-(4-Acetoxy-3,5-dimethoxycinnamoylamino)-4-(2-chloropheny ethylthieno[2,3-b]pyridine was obtained as colorless prisms by recrystallization from acetone, mp: 133°-135° C.

reactant | 5-amino-4-(2-chlorophenyl)-2-ethylthieno[2,3-b]pyridine | 576 mg | NC=1C(=C2C(=NC1)SC(=C2)CC)C2=C(C=CC=C2)Cl | C15H13ClN2S
reactant | N,N-dimethylaniline | 0.25 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-chloropheny ethylthieno[2,3-b]pyridine | ClC1=C(C=CC=C1)C1=C(SC2=NC=CC=C21)CC | C15H12ClNS
